US05521181
5-Methoxy-3,4-dihydronaphthalene-1-carboxylic acid methyl ester
5-Methoxy-3,4-dihydronaphthalene-1-carboxylic acid (100 g, 490 mmol) was dissolved in 800 mL of methanol and 20 mL of 96% H2SO4, and heated at reflux for 18 hours. The reaction was then cooled and evaporated under reduced pressure to a volume of 100 mL, and quenched on ice. The aqueous mixture was extracted with diethyl ether (3×100 mL), and the organic phase was washed with water, 5% aqueous NaHCO3, brine, and then dried (MgSO4) and evaporated to yield 101 g (94%) of the title compound as a colorless oil. 1H NMR (300 MHz, CDCl3) δ 2.36 (m, 2H), 2.78 (t, 3H), 3.83 (s, 6H), 6.82 (d, 1H), 7.14 (t, 1H), 7.19 (t, 1H), 7.40 (t, 1H).

reactant | 5-Methoxy-3,4-dihydronaphthalene-1-carboxylic acid | 490 mmol, 100 g | COC1=C2CCC=C(C2=CC=C1)C(=O)O | C12H12O3
reactant | methanol | 800 mL | CO | CH4O
solvent | H2SO4 | 20 mL | OS(=O)(=O)O | H2O4S
product | 5-Methoxy-3,4-dihydronaphthalene-1-carboxylic acid methyl ester | 101 g, 94% | COC(=O)C1=CCCC2=C(C=CC=C12)OC | C13H14O3
